US04322349
A suspension of 1.0 g of sodium acetate in 30 ml of chloroform, 30 ml of formaldehyde diethylacetal, and 3.8 ml of phosphorus oxychloride is agitated in a two-necked flask for 1 hour at a bath temperature of 65° C. and then combined with 1.0 g of 17α-hydroxyprogesterone. The mixture is stirred for 1.5 hours at 65° C., cooled to room temperature, and under vigorous agitation a saturated soda solution is added dropwise until alkaline reaction occurs. The organic phase is separated, washed neutral with water, dried over sodium sulfate, and concentrated under vacuum. The crude product is purified on 220 g of silica gel with a methylene chloride/acetone gradient (0-12% acetone), thus obtaining 842 mg of 17α-hydroxy-6-methylene-4-pregnene-3,20-dione, mp 218°-220° C.

reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
reactant | phosphorus oxychloride | 3.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 17α-hydroxyprogesterone | 1.0 g | CC(=O)[C@]1(CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C)O | C21H30O3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | formaldehyde diethylacetal | 30 ml | C(C)OCOCC | C5H12O2
product | 17α-hydroxy-6-methylene-4-pregnene-3,20-dione | 842 mg | O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CC(C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=C | C22H30O3
